US08389531B2
4-Chloro-6,7-bis-(2-methoxyethoxy)-quinazoline (50 gm) and dimethyl sulfoxide (250 ml) are added to methanol (500 ml) while stirred at 25-30° C., 3-ethynylaniline (20.5 gm) is added to the reaction mixture at 25-30° C. and then the contents are heated to 85° C. The reaction mass is stirred for 2 hours at 80-85° C., the mass is cooled to 25-30° C. and then stirred for 1 hour. The material is filtered, washed with a mixture of dimethyl sulfoxide (50 ml) and methanol (100 ml), and then dried at 60° C. under vacuum for 4 hours to give 60 gm of erlotinib hydrochloride [HPLC purity: 99.65%; Content of N-methoxyethyl impurity: 0.09% (at 1.14 RRT)].

reactant | 4-Chloro-6,7-bis-(2-methoxyethoxy)-quinazoline | 50 gm | ClC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCOC | C14H17ClN2O4
reactant | dimethyl sulfoxide | 250 ml | CS(=O)C | C2H6OS
reactant | 3-ethynylaniline | 20.5 gm | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | methanol | 500 ml | CO | CH4O
product | erlotinib hydrochloride | 60 gm, 0.09% | COCCOC=1C=C2C(=CC1OCCOC)N=CN=C2NC=3C=CC=C(C3)C#C.Cl | InChI=1S/C22H23N3O4.ClH/c1-4-16-6-5-7-17(12-16)25-22-18-13-20(28-10-8-26-2)21(29-11-9-27-3)14-19(18)23-15-24-22;/h1,5-7,12-15H,8-11H2,2-3H3,(H,23,24,25);1H
